US08242125B2
150-D. tert-butyl (4-(1-(5-cyclopropyl-1-ethyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate
To a solution of tert-butyl (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate (35 mg, 0.099 mmol) in THF (2 ml) is added phenyl 5-cyclopropyl-1-ethyl-1H-pyrazol-3-ylcarbamate (29.5 mg, 0.109 mmol), which is prepared as described in Example 5-S. The mixture is put at 0° C. and NaH (60% dispersion in oil; 11.85 mg, 0.296 mmol) is then added and the reaction is then stirred for 30 minutes. The reaction is then quenched with 10% AcOH/MeOH (0.3 mL) and further diluted with DCM and saturated aqueous NaHCO3. The resulting layers are then separated and the aqueous layer is extracted two additional times with DCM. The organic layers are combined, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (10-100% EtOAc (2.5% EtOH)/DCM) to give the title compound. MS (ESI) m/z 532.3 (M+1).

reactant | tert-butyl (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate | 0.099 mmol, 35 mg | N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C19H22N4O3
reactant | phenyl 5-cyclopropyl-1-ethyl-1H-pyrazol-3-ylcarbamate | 0.109 mmol, 29.5 mg | C1(CC1)C1=CC(=NN1CC)NC(OC1=CC=CC=C1)=O | C15H17N3O2
reactant | NaH | 0.296 mmol, 11.85 mg | [H-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | tert-butyl (4-(1-(5-cyclopropyl-1-ethyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate | C1(CC1)C1=CC(=NN1CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C28H33N7O4
